US05189040
A mixture of 0.255 g (1.00 mmol) of 1,3-dimethyl-4-(4-chlorophenylthio)-5-hydroxypyrazole and 0.43 g (3.00 mmol) of 2-chloro-4,6-dimethylpyrimidine was heated on a bath of which temperature was 130° C. for 3 hours with stirring. After completing the reaction, the reaction mixture was purified by means of silica gel column chromatography (developing solution: ethyl acetate) to give 0.308 g of 1,3-dimethyl-4-(4-chlorophenylthio)-5-(4,6-dimethylpyrimidine-2-yloxy)pyrazole.

reactant | 1,3-dimethyl-4-(4-chlorophenylthio)-5-hydroxypyrazole | 1.00 mmol, 0.255 g | CN1N=C(C(=C1O)SC1=CC=C(C=C1)Cl)C | C11H11ClN2OS
reactant | 2-chloro-4,6-dimethylpyrimidine | 3.00 mmol, 0.43 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
product | 1,3-dimethyl-4-(4-chlorophenylthio)-5-(4,6-dimethylpyrimidine-2-yloxy)pyrazole | 0.308 g | CN1N=C(C(=C1OC1=NC(=CC(=N1)C)C)SC1=CC=C(C=C1)Cl)C | C17H17ClN4OS
